* C:\Projects\Patrol-Bot\Electronics\Draft1.asc
V1 N004 0 5
M1 N004 N005 N003 N003 NMOS
M2 N003 N001 N002 N002 PMOS
V2 N002 0 5
V3 N001 0 10
V4 N005 0 10
R1 N003 0 1.6K
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\DangL\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0.05
.backanno
.end
